US04242355
A stirred mixture of 3.4 g of 3-methoxy-N-propyl-benzeneethanamine, 4 g of potassium carbonate and 15 ml of cyclopentyl bromide was refluxed for one hour after which 5 g of potassium carbonate were added thereto and the mixture was refluxed for another 3 hours. The mixture was poured into 50 ml of water and the mixture was extracted 3 times with 50 ml of ether. The organic phase was dried and filtered and the filtrate was evaporated to dryness to obtain 4.5 g of N-cyclopentyl-3-methoxy-N-propylbenzeneethanamine in the form of a red oil which was used as is for the next step.

reactant | 3-methoxy-N-propyl-benzeneethanamine | 3.4 g | COC=1C=C(C=CC1)CCNCCC | C12H19NO
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 15 ml | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | N-cyclopentyl-3-methoxy-N-propylbenzeneethanamine | 4.5 g | C1(CCCC1)N(CCC1=CC(=CC=C1)OC)CCC | C17H27NO
